US05153318
b) 2-Amino-9-(3-azido-2,3-dideoxy-β-D-erythro-pentofuranosyl)-6-(cyclopropylmethylamino)-9H-purine
To 800 mL of an aqueous pH 6.0, 50 mM citrate buffer, prepared as described in Example 2c, was added 2-amino-6-(cyclopropylmethylamino)-9H-purine (0.204 g, 0.8 mmol) and 3'-azido-3'-deoxythymidine (1.069 g, 4.0 mmol). Solution was achieved by heating the mixture at 50° C. with sonication. A sample was removed as a control. A 40 mL solution of trans-N-deoxyribosylase (Example 2b) with an activity of 1500 units/mL was added. The reaction was heated at 50° C. Six days later, 0.204 g, 0.8 mmol, of 2-amino-6-cyclopropylmethylpurine was added to the reaction. Twenty-one days after the reaction was started, another 0.204 g, 0.8 mmol, of 2-amino-6-cyclopropylpurine and 0.428 g, 1.6 mmol, of 3'-azido-3'-deoxythymidine were added to the reaction. The reaction was stopped after thirty-three days by heating to 80° C. to precipitate the enzyme. The aqueous solution was extracted with ethyl acetate to remove the product. The combined ethyl acetate fractions were dried with magnesium sulfate, filtered and the solvent was removed in vacuo to give a foam. The foam was chromatographed on basic alumina grade 1 eluted with chloroform/methanol (97:3, v/v). The product containing fractions were combined and the solvent was removed in vacuo to give the product as a foam 0.237 g, 29% yield. mp=104°-106° C.

reactant | citrate | 50 mM, pH 6.0 | C(CC(O)(C(=O)[O-])CC(=O)[O-])(=O)[O-]
reactant | 2-amino-6-(cyclopropylmethylamino)-9H-purine | 0.8 mmol, 0.204 g | NC1=NC(=C2N=CNC2=N1)NCC1CC1 | C9H12N6
reactant | 3'-azido-3'-deoxythymidine | 4.0 mmol, 1.069 g | N(=[N+]=[N-])[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C(C)=C1 | C10H13N5O4
product | 2-Amino-9-(3-azido-2,3-dideoxy-β-D-erythro-pentofuranosyl)-6-(cyclopropylmethylamino)-9H-purine | 0.237 g, 29% yield | NC1=NC(=C2N=CN(C2=N1)[C@H]1C[C@@H]([C@H](O1)CO)N=[N+]=[N-])NCC1CC1 | C14H19N9O2
